### PR TITLE
feat(Mathlib/GroupTheory/SpecificGroups/Alternating): A_n is simple iff n = 3 or 5 ≤ n

### PR DESCRIPTION
**Pull request by Komyyy**
---

For reviewers: This PR is large. Please don't hesitate to let me know if you'd prefer it to be split.

- [x] depends on: #25299
- [x] depends on: #25314
- [x] depends on: #25367

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by tb65536** [comment]
Is it possible to use @AntoineChambert-Loir's work to streamline the proof? (e.g., #12048)

File: Mathlib/GroupTheory/SpecificGroups/Alternating.lean [hunk 1]
```diff
@@ -362,6 +520,146 @@ instance isSimpleGroup_five : IsSimpleGroup (alternatingGroup (Fin 5)) :=
...
+
+theorem isSimpleGroup_of_five_le_card (h5 : 5 ≤ card α) : IsSimpleGroup ↥(alternatingGroup α) := by
+  haveI : IsSimpleGroup ↥(alternatingGroup (Fin (card α))) := isSimpleGroup_of_five_le h5
+  obtain ⟨e⟩ := Fintype.truncEquivFin α
+  have me : ↥(alternatingGroup α) ≃* ↥(alternatingGroup (Fin (card α))) :=
+    e.permCongrMulEquiv.subgroupMap (alternatingGroup α) |>.trans <|
+      MulEquiv.subgroupCongr <| by
+        ext1 p
+        simp [e.permCongr.symm.surjective.exists,
+          show sign (e.permCongr.symm p) = sign p by simp, - permCongr_symm]
```
Comment (acmepjz) [inline Mathlib/GroupTheory/SpecificGroups/Alternating.lean:644]: Do you think it worth to extract as a lemma that the image of `alternatingGroup` under `permCongrMulEquiv` is also `alternatingGroup` and `permCongrMulEquiv` induces an isomorphism between `alternatingGroup` (maybe you can use `Subgroup.equivMapOfInjective` to define such isomorphism)?

**Comment by Komyyy** [comment]
> Is it possible to use @AntoineChambert-Loir's work to streamline the proof? (e.g., #12048)

I tried but it was difficult to prove that alternating group acts on three triples primitively.

File: Mathlib/GroupTheory/SpecificGroups/Alternating.lean [hunk 2]
```diff
@@ -24,15 +21,22 @@ consisting of the even permutations.
...
+* `Fintype.card_alternatingGroup` shows that the alternating group is half as large as
   the permutation group it is a subgroup of.
 
 * `closure_three_cycles_eq_alternating` shows that the alternating group is
   generated by 3-cycles.
 
 * `alternatingGroup.isSimpleGroup_five` shows that the alternating group on `Fin 5` is simple.
   The proof shows that the normal closure of any non-identity element of this group contains a
-  3-cycle.
+  3-cycle, this theorem is used in `alternatingGroup.isSimpleGroup_of_five_le` as the insuction
```
Comment (ajirving) [inline Mathlib/GroupTheory/SpecificGroups/Alternating.lean]: Typo:
```suggestion
  3-cycle, this theorem is used in `alternatingGroup.isSimpleGroup_of_five_le` as the induction
```

**Comment by AntoineChambert-Loir** [comment]
> I tried but it was difficult to prove that alternating group acts on three triples primitively.

Indeed, this is difficult.

File: Mathlib/GroupTheory/Subgroup/Simple.lean [hunk 3]
```diff
@@ -48,6 +50,18 @@ theorem Subgroup.Normal.eq_bot_or_eq_top [IsSimpleGroup G] {H : Subgroup G} (Hn
     H = ⊥ ∨ H = ⊤ :=
   IsSimpleGroup.eq_bot_or_eq_top_of_normal H Hn
 
+@[to_additive]
+protected lemma Subgroup.isSimpleGroup_iff {H : Subgroup G} :
+    IsSimpleGroup ↥H ↔ H ≠ ⊥ ∧ ∀ H' ≤ H, (H'.subgroupOf H).Normal → H' = ⊥ ∨ H' = H := by
+  rw [_root_.isSimpleGroup_iff]; congr! 1
+  · rw [H.nontrivial_iff_ne_bot]
+  · let e : Subgroup ↥H ≃ { H' : Subgroup G // H' ≤ H } :=
```
Comment (AntoineChambert-Loir) [inline Mathlib/GroupTheory/Subgroup/Simple.lean]: What about giving this equiv as a lemma?

Comment (acmepjz) [reply Mathlib/GroupTheory/Subgroup/Simple.lean]: Moreover, it's an [OrderIso](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Hom/Basic.html#OrderIso) I think. Isn't it in mathlib?

Comment (Komyyy) [reply Mathlib/GroupTheory/Subgroup/Simple.lean]: I searched in [Loogle](https://loogle.lean-lang.org/?q=OrderIso%2C+Subgroup+) and there are no such a definition, so I defined it and created the PR: #25367

**Comment by Komyyy** [comment]
This PR has been migrated to a fork-based workflow: https://github.com/leanprover-community/mathlib4/pull/26051
